US05723606
A 3.32 g portion of 2,3,4,5-tetrahydro-1H-1-benzazepin-5-one and 4.31 ml of triethylamine were dissolved in 33 ml of dichloromethane and, with stirring on an ice bath, 4.59 g of p-nitrobenzoyl chloride was added to the resulting solution. The reaction solution was stirred at room temperature for additional 60 minutes. The reaction solution was then mixed with a saturated sodium bicarbonate aqueous solution and subjected to phase separation. The dichloromethane layer was separated and washed with a 1N hydrochloric acid aqueous solution and a saturated sodium chloride aqueous solution once for each. The thus washed layer was dried over anhydrous magnesium sulfate and then concentrated under a reduced pressure. The thus obtained residue was recrystallized from methyl alcohol to obtain 5.68 g of 1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one.

reactant | 2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | N1CCCC(C2=C1C=CC=C2)=O | C10H11NO
reactant | triethylamine | 4.31 ml | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzoyl chloride | 4.59 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
product | 1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 5.68 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCCC(C3=C2C=CC=C3)=O)C=C1 | C17H14N2O4
